US07163947B2
A solution of tert-butyl [3-(4-amino-2-ethoxymethyl-1-isopropylamino-1H-imidazo[4,5-c]quinolin-7-yloxy)propyl]carbamate (1.24 g, 2.62 mmol) in 5 mL of ethanol (EtOH) was treated with 5 mL of 4.3 M HCl in EtOH. The reaction was heated to 100° C. After 1 h, the reaction was cooled to ambient temperature and concentrated under reduced pressure to yield a brown solid. The solid was dissolved in a minimum amount of H2O and treated with 10% NaOH solution until the pH of the liquid was 13. The basic aqueous mixture was extracted with CH2Cl2 (3×25 mL). The combined organic extracts were washed with brine (25 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield 7-(3-aminopropoxy)-2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.84 g) as a tan solid.

reactant | tert-butyl [3-(4-amino-2-ethoxymethyl-1-isopropylamino-1H-imidazo[4,5-c]quinolin-7-yloxy)propyl]carbamate | 2.62 mmol, 1.24 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2NC(C)C)COCC)OCCCNC(OC(C)(C)C)=O | C24H36N6O4
reactant | HCl | 4.3 M, 5 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | EtOH | CCO | C2H6O
solvent | H2O | O | H2O
product | 7-(3-aminopropoxy)-2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.84 g | NCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3NC(C)C)COCC | C19H28N6O2
